**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Aluminum Electrolytic Capacitors
* Matchcode:              WCAP-AIE8 
* Library Type:           Pspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-31
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt AIE8_861220784007_3R3mF 1 2
Rser 1 3 0.043877
Lser 2 4 1.9832344526E-08
C1 3 4 0.0033
Rpar 3 4 46056.671637863
.ends AIE8_861220784007_3R3mF
*****
.subckt AIE8_861220785014_4R7mF 1 2
Rser 1 3 0.02889
Lser 2 4 1.8448848697E-08
C1 3 4 0.0047
Rpar 3 4 38592.2999173022
.ends AIE8_861220785014_4R7mF
*****
.subckt AIE8_861220786020_6R8mF 1 2
Rser 1 3 0.04455
Lser 2 4 1.9103544217E-08
C1 3 4 0.0068
Rpar 3 4 32084.4176678193
.ends AIE8_861220786020_6R8mF
*****
.subckt AIE8_861221084006_0R47mF 1 2
Rser 1 3 0.13384
Lser 2 4 1.7119787884E-08
C1 3 4 0.00047
Rpar 3 4 217443.301659092
.ends AIE8_861221084006_0R47mF
*****
.subckt AIE8_861221084017_1mF 1 2
Rser 1 3 0.075975
Lser 2 4 1.6546297324E-08
C1 3 4 0.001
Rpar 3 4 149071.285888912
.ends AIE8_861221084017_1mF
*****
.subckt AIE8_861221385012_0R22mF 1 2
Rser 1 3 0.3131
Lser 2 4 1.6449605551E-08
C1 3 4 0.00022
Rpar 3 4 449468.503494618
.ends AIE8_861221385012_0R22mF
*****
.subckt AIE8_861221386021_0R47mF 1 2
Rser 1 3 0.1846
Lser 2 4 1.3568717809E-08
C1 3 4 0.00047
Rpar 3 4 307510.167054898
.ends AIE8_861221386021_0R47mF
*****
.subckt AIE8_861221483001_68uF 1 2
Rser 1 3 0.399
Lser 2 4 1.4199115455E-08
C1 3 4 0.000068
Rpar 3 4 857485.851483451
.ends AIE8_861221483001_68uF
*****
.subckt AIE8_861221483002_82uF 1 2
Rser 1 3 0.349
Lser 2 4 1.3864254849E-08
C1 3 4 0.000082
Rpar 3 4 780870.410217256
.ends AIE8_861221483002_82uF
*****
.subckt AIE8_861221483003_0R1mF 1 2
Rser 1 3 0.291
Lser 2 4 1.2861836684E-08
C1 3 4 0.0001
Rpar 3 4 707102.451288498
.ends AIE8_861221483003_0R1mF
*****
.subckt AIE8_861221483004_0R12mF 1 2
Rser 1 3 0.244
Lser 2 4 1.3021156155E-08
C1 3 4 0.00012
Rpar 3 4 645494.448747741
.ends AIE8_861221483004_0R12mF
*****
.subckt AIE8_861221483005_0R15mF 1 2
Rser 1 3 0.203
Lser 2 4 1.2678635194E-08
C1 3 4 0.00015
Rpar 3 4 577352.390238896
.ends AIE8_861221483005_0R15mF
*****
.subckt AIE8_861221483006_0R18mF 1 2
Rser 1 3 0.191
Lser 2 4 1.2969012151E-08
C1 3 4 0.00018
Rpar 3 4 527049.343530762
.ends AIE8_861221483006_0R18mF
*****
.subckt AIE8_861221484007_0R1mF 1 2
Rser 1 3 0.291
Lser 2 4 1.473608604E-08
C1 3 4 0.0001
Rpar 3 4 707102.451288498
.ends AIE8_861221484007_0R1mF
*****
.subckt AIE8_861221484008_0R12mF 1 2
Rser 1 3 0.263
Lser 2 4 1.98823755068289E-08
C1 3 4 0.00012
Rpar 3 4 645494.448747741
.ends AIE8_861221484008_0R12mF
*****
.subckt AIE8_861221484009_0R15mF 1 2
Rser 1 3 0.224
Lser 2 4 1.4837267947E-08
C1 3 4 0.00015
Rpar 3 4 577352.390238896
.ends AIE8_861221484009_0R15mF
*****
.subckt AIE8_861221484010_0R18mF 1 2
Rser 1 3 0.187
Lser 2 4 1.421767445E-08
C1 3 4 0.00018
Rpar 3 4 527049.343530762
.ends AIE8_861221484010_0R18mF
*****
.subckt AIE8_861221484011_0R22mF 1 2
Rser 1 3 0.16
Lser 2 4 1.3516163691E-08
C1 3 4 0.00022
Rpar 3 4 476730.266015488
.ends AIE8_861221484011_0R22mF
*****
.subckt AIE8_861221485012_0R12mF 1 2
Rser 1 3 0.268
Lser 2 4 1.6630406106E-08
C1 3 4 0.00012
Rpar 3 4 645494.448747741
.ends AIE8_861221485012_0R12mF
*****
.subckt AIE8_861221485013_0R15mF 1 2
Rser 1 3 0.231
Lser 2 4 1.5511057602E-08
C1 3 4 0.00015
Rpar 3 4 577352.390238896
.ends AIE8_861221485013_0R15mF
*****
.subckt AIE8_861221485014_0R18mF 1 2
Rser 1 3 0.195
Lser 2 4 2.4024464390881E-08
C1 3 4 0.00018
Rpar 3 4 527049.343530762
.ends AIE8_861221485014_0R18mF
*****
.subckt AIE8_861221485015_0R22mF 1 2
Rser 1 3 0.17
Lser 2 4 1.6048514797E-08
C1 3 4 0.00022
Rpar 3 4 476730.266015488
.ends AIE8_861221485015_0R22mF
*****
.subckt AIE8_861221485016_0R27mF 1 2
Rser 1 3 0.15
Lser 2 4 9.33981131218067E-09
C1 3 4 0.00027
Rpar 3 4 430329.632498494
.ends AIE8_861221485016_0R27mF
*****
.subckt AIE8_861221485017_0R33mF 1 2
Rser 1 3 0.131
Lser 2 4 9.70576910419093E-09
C1 3 4 0.00033
Rpar 3 4 389249.785912618
.ends AIE8_861221485017_0R33mF
*****
.subckt AIE8_861221485018_0R39mF 1 2
Rser 1 3 0.112
Lser 2 4 1.12131457404893E-08
C1 3 4 0.00039
Rpar 3 4 358057.893983036
.ends AIE8_861221485018_0R39mF
*****
.subckt AIE8_861221486019_0R22mF 1 2
Rser 1 3 0.162
Lser 2 4 1.327136846E-08
C1 3 4 0.00022
Rpar 3 4 476730.266015488
.ends AIE8_861221486019_0R22mF
*****
.subckt AIE8_861221486020_0R27mF 1 2
Rser 1 3 0.126
Lser 2 4 8.07449593102488E-09
C1 3 4 0.00027
Rpar 3 4 430329.632498494
.ends AIE8_861221486020_0R27mF
*****
.subckt AIE8_861221486021_0R33mF 1 2
Rser 1 3 0.106
Lser 2 4 9.0579350029691E-09
C1 3 4 0.00033
Rpar 3 4 389249.785912618
.ends AIE8_861221486021_0R33mF
*****
.subckt AIE8_861221486022_0R39mF 1 2
Rser 1 3 0.107
Lser 2 4 2.36165022378636E-08
C1 3 4 0.00039
Rpar 3 4 358057.893983036
.ends AIE8_861221486022_0R39mF
*****
.subckt AIE8_861221486023_0R47mF 1 2
Rser 1 3 0.08
Lser 2 4 9.00948364384751E-09
C1 3 4 0.00047
Rpar 3 4 326164.952488639
.ends AIE8_861221486023_0R47mF
*****
.subckt AIE8_861221486024_0R56mF 1 2
Rser 1 3 0.074
Lser 2 4 1.0032629769535E-08
C1 3 4 0.00056
Rpar 3 4 298806.764985159
.ends AIE8_861221486024_0R56mF
*****
